US08623889B2
Step 1: (1S,2S)—N-(7-(6-chloro-5-fluoro-4-methylpyridin-3-yl)isoquinolin-3-yl)-2-fluorocyclopropanecarboxamide
The title compound was prepared following a procedure similar to that described for Example 12, using 2-chloro-3-fluoro-5-iodo-4-methyl-pyridine and (1S,2S)-2-fluoro-N-(7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-3-yl)cyclopropanecarboxamide, and was carried forward without purification; 0.407 g (98%).

reactant | 2-chloro-3-fluoro-5-iodo-4-methyl-pyridine | ClC1=NC=C(C(=C1F)C)I | C6H4ClFIN
reactant | (1S,2S)-2-fluoro-N-(7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-3-yl)cyclopropanecarboxamide | F[C@@H]1[C@@H](C1)C(=O)NC=1N=CC2=CC(=CC=C2C1)B1OC(C(O1)(C)C)(C)C | C19H22BFN2O3
product | (1S,2S)—N-(7-(6-chloro-5-fluoro-4-methylpyridin-3-yl)isoquinolin-3-yl)-2-fluorocyclopropanecarboxamide | ClC1=C(C(=C(C=N1)C1=CC=C2C=C(N=CC2=C1)NC(=O)[C@H]1[C@H](C1)F)C)F | C19H14ClF2N3O
